US08183264B2
3-(5-(4-Benzyloxy-benzyl)-4H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine
To a methanol (10 mL) solution of 4-benzyloxy-phenylacetic acid hydrazide (200 mg) described in Manufacturing Example 15-1 were added 2-amino-3-cyanopyridine (92 mg) and 28% sodium methoxide-methanol solution (30 mg), which was stirred for 14 hours under heating and reflux. Water and ethyl acetate were added to the reaction solution, and then the organic layer was extracted. The organic layer was washed with water and saturated brine, then dried over anhydrous magnesium sulfate and filtered, after which the filtrate was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the titled compound (3 mg).

reactant | methanol | 10 mL | CO | CH4O
reactant | 4-benzyloxy-phenylacetic acid hydrazide | 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NN | C15H16N2O2
reactant | 2-amino-3-cyanopyridine | 92 mg | NC1=NC=CC=C1C#N | C6H5N3
reactant | sodium methoxide methanol | 30 mg | C[O-].[Na+].CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-(5-(4-Benzyloxy-benzyl)-4H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine | 3 mg | C(C1=CC=CC=C1)OC1=CC=C(CC=2NC(=NN2)C=2C(=NC=CC2)N)C=C1 | C21H19N5O
